2130-02-09 09:12:00 Physician Attending Progress Note
Chief Complaint: GI BLEED
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with continued bleed yesterday
   Patient to angio with no source seen
   Patient with sheath removal last pm after position change in sheath by
   IR
   24 Hour Events:
 MULTI LUMEN - START [**2130-2-8**] 09:50 AM
 ANGIOGRAPHY - At [**2130-2-8**] 10:00 AM
 SHEATH - START [**2130-2-8**] 12:45 PM
   Right Femoral
 EKG - At [**2130-2-8**] 03:30 PM
 SHEATH - STOP [**2130-2-8**] 09:12 PM
   Right Femoral
                            History obtained from [**Hospital 85**] Medical records
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Wheezing;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Codeine
   Lightheadedness
   Aspirin
   Unknown;
   Gabapentin
   Diarrhea;
   Ranitidine
   Abdominal pain;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2130-2-8**] 12:30 PM
   Dextrose 50% - [**2130-2-8**] 12:45 PM
   Furosemide (Lasix) - [**2130-2-8**] 05:41 PM
   Insulin - Regular - [**2130-2-8**] 10:02 PM
   Pantoprazole (Protonix) - [**2130-2-8**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2130-2-9**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (65 - 101) bpm
   BP: 147/49(73) {112/43(60) - 177/104(116)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 78.4 kg (admission): 78.4 kg
   CVP: 9 (2 - 12)mmHg
   Total In:
                                                                  4,975 mL
                                                                    755 mL
   PO:
                                                                  1,080 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,118 mL
                                                                    455 mL
   Blood products:
                                                                  1,727 mL
   Total out:
                                                                  3,230 mL
                                                                    710 mL
   Urine:
                                                                  3,230 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.37///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right femoral bruit with hematoma noted
dressing in place
   at this time
dopplerable pulse clearly heard distally.
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   107 K/uL
   138 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.3 mEq/L
   23 mg/dL
   108 mEq/L
   141 mEq/L
   33.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2130-2-8**]  06:00 AM
                             [**2130-2-8**]  10:25 AM
                             [**2130-2-8**]  10:55 AM
                             [**2130-2-8**]  01:02 PM
                             [**2130-2-8**]  01:09 PM
                             [**2130-2-8**]  03:49 PM
                             [**2130-2-8**]  06:12 PM
                             [**2130-2-8**]  08:16 PM
                             [**2130-2-9**]  12:05 AM
                             [**2130-2-9**]  03:58 AM
   WBC
   8.2
   9.2
   9.7
   10.2
   Hct
   23.7
   31.0
   38
   37.9
   37.2
   36.2
   34.2
   33.7
   33.1
   Plt
   [**Telephone/Fax (3) 8315**]19
   126
   119
   107
   Cr
   1.0
   0.9
   0.8
   0.9
   1.0
   1.0
   Glucose
   195
   169
   118
   137
   166
   138
   Other labs: PT / PTT / INR:14.2/25.7/1.2, Differential-Neuts:76.8 %,
   Lymph:19.4 %, Mono:2.7 %, Eos:0.7 %, Fibrinogen:312 mg/dL, Ca++:8.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   88 yo female admitted with lower GI bleed and with clinical evidence of
   continued bleed patient has undergone multiple procedures to look for
   source of bleeding.  Angiography was performed at what appeared to be a
   possibly optimal time based on active bleeding--source, however, was
   not found.
 ANAL & RECTAL ABSCESS
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
Presenting with bright
   red blood per rectum.  HCT has shown good response to transfusions and
   current active issue relates to best path to identify and control
   bleeding.
   -Continue with GoLytely
   -Maintain 2 P-IV
   -Goal HCT q 4 hours today
   -GI discussed this morning
   -FEMORAL BRUIT/HEMATOMA-
   -IR aware
   -U/S today
   -Follow extremity exam
   ICU Care
   Nutrition: npo
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-2-8**] 05:34 AM
   20 Gauge - [**2130-2-8**] 05:35 AM
   Multi Lumen - [**2130-2-8**] 09:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-02-10 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: BRBPR
   24 Hour Events:
 ULTRASOUND - At [**2130-2-9**] 10:00 AM
   ultrasound of rt femoral area
   - GI to scope in AM
   - IR recs: nothing new, will follow
   - Ultrasound of groin: no AVF or pseudoaneurysm, patent vessels.
   - Q6h Hct: 9 am 31.4-> 3 pm 31
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Wheezing;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Codeine
   Lightheadedness
   Aspirin
   Unknown;
   Gabapentin
   Diarrhea;
   Ranitidine
   Abdominal pain;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-2-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-10**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 73 (72 - 93) bpm
   BP: 140/52(75) {113/34(57) - 162/75(95)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 78.4 kg
    CVP: 5 (4 - 11)mmHg
   Total In:
                                                                  3,887 mL
                                                                    718 mL
   PO:
                                                                  2,300 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,587 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  2,132 mL
                                                                    550 mL
   Urine:
                                                                  1,932 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,755 mL
                                                                    168 mL
   Respiratory support
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, [**12-13**] early systolic murmur
   Abdomen:  soft, non-tender, non-distended, increased bowel sounds;
   unable to appreciate femoral bruit this am secondary to increased bowel
   sounds
   Ext: Warm, well perfused, pedal pulses dopplerable only
   Labs / Radiology
   103 K/uL
   10.8 g/dL
   194 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   13 mg/dL
   109 mEq/L
   141 mEq/L
   30.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2130-2-8**]  01:09 PM
                             [**2130-2-8**]  03:49 PM
                             [**2130-2-8**]  06:12 PM
                             [**2130-2-8**]  08:16 PM
                             [**2130-2-9**]  12:05 AM
                             [**2130-2-9**]  03:58 AM
                             [**2130-2-9**]  08:50 AM
                             [**2130-2-9**]  02:46 PM
                             [**2130-2-9**]  09:33 PM
                             [**2130-2-10**]  02:55 AM
   WBC
   9.7
   10.2
   11.0
   Hct
   37.9
   37.2
   36.2
   34.2
   33.7
   33.1
   31.4
   30.9
   30.9
   30.6
   Plt
   129
   119
   126
   119
   107
   103
   Cr
   0.8
   0.9
   1.0
   1.0
   1.0
   Glucose
   118
   137
   166
   138
   194
   Other labs: PT / PTT / INR:14.5/26.9/1.3, Differential-Neuts:76.8 %,
   Lymph:19.4 %, Mono:2.7 %, Eos:0.7 %, Fibrinogen:312 mg/dL, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 88 yo F with diverticulosis and h/o GI
   bleed who presents with a painless lower GI bleed.
   .
   # GI Bleed: most likely due to diverticulosis. GI and surgery aware,
   typed and crossed;  Hct slowly drifting down overnight, but no further
   BRBPR.  Patient drank ~2L of golytely last night before having to lie
   flat after angiosheath removal.  She had 1 bottle of magnesium citrate
   this morning, however, stools are still not yet clear.
   - HCT Q6H, increased frequency if further BRBPR
   - 2L more of golytely this morning with plan for colonoscopy this
   afternoon if clear
   - [**Hospital1 **] PPI
   .
   # Femoral bruit: Patient felt to have small hematoma medially last
   night when sheath was removed.  Unclear if bruit is new or old as there
   is no prior documentation regarding this on this admission.
   - Femoral ultrasound this am to assess
   - IR following; their assistance appreciated
   .
   # Afib: stable, patient does have occasional [**12-9**] sec pauses on
   telemetry
   .
   # HTN: holding home antihypertensives given potential for rapid GI
   bleed until further info from colonoscopy.
   - nitro drip prn for hypertension
   .
   # FEN:  NPO except golytely, IVF, replete electrolytes, ISS
   .
   # Prophylaxis: [**Hospital1 **] PPI and pneumo boots
   .
   # Access: RIJ placed [**2130-2-8**]
   .
   # Code:  DNR/DNI but ok to intubate for procedure
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-2-8**] 05:34 AM
   20 Gauge - [**2130-2-8**] 05:35 AM
   Multi Lumen - [**2130-2-8**] 09:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: